US08470820B2
Step 6: 3-Bromo-6-methoxymethyl-pyridine-2-carboxylic acid methyl ester
To a solution of 3-bromo-6-methoxymethyl-pyridine-2-carboxylic acid (200 mg, 0.81 mmol) in benzene (4 ml) and MeOH (1 ml) was slowly added trimethylsilyl-diazomethane (0.41 ml, 0.81 mmol) at ambient temperature, and the reaction mixture was stirred for 2 hours. The solvents were removed and the residue was extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried, filtered, and evaporated. The crude product was purified by silica gel chromatography using an ethyl acetate/hexane eluent to yield 158 mg (75%) of the title compound as light yellow oil.

reactant | 3-bromo-6-methoxymethyl-pyridine-2-carboxylic acid | 0.81 mmol, 200 mg | BrC=1C(=NC(=CC1)COC)C(=O)O | C8H8BrNO3
reactant | trimethylsilyl-diazomethane | 0.81 mmol, 0.41 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
solvent | MeOH | 1 ml | CO | CH4O
product | 3-Bromo-6-methoxymethyl-pyridine-2-carboxylic acid methyl ester | 158 mg, 75% | COC(=O)C1=NC(=CC=C1Br)COC | C9H10BrNO3
